US06677368B2
3-[1-(4-{(S)-2-[(Cyclopropylmethyl-amino)-methyl]-pyrrolidine-1-carbonyl}-3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one
To a solution of 5-[4-(3-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (70 mg, 0.185 mmol), EDC (70 mg, 0.37 mmol), HOBt (26 mg, 0.19 mmol) in DMF (4 mL) was added TEA (0.08 mL) and cyclopropylmethyl-(S)-1-pyrrolidin-2-ylmethyl-amine (0.05 mL, 0.37 mmol). The mixture was stirred at rt for 20 hours. The reaction was diluted with DCM, washed with water, NaHCO3, dried and concentrated. The residue was purified on a silica gel column to give the titled compound.

reactant | 5-[4-(3-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.185 mmol, 70 mg | FC=1C=C(C=CC1)C1=C2/C(/C(NC2=CC=C1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C22H17FN2O3
reactant | EDC | 0.37 mmol, 70 mg
reactant | HOBt | 0.19 mmol, 26 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | cyclopropylmethyl-(S)-1-pyrrolidin-2-ylmethyl-amine | 0.37 mmol, 0.05 mL | C1(CC1)CNC[C@H]1NCCC1 | C9H18N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-[1-(4-{(S)-2-[(Cyclopropylmethyl-amino)-methyl]-pyrrolidine-1-carbonyl}-3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one | C1(CC1)CNC[C@H]1N(CCC1)C(=O)C=1C(=C(NC1C)\C=C\1/C(NC2=CC=CC(=C12)C1=CC(=CC=C1)F)=O)C | C31H33FN4O2
